Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Multiple pelvic fractures
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F with PMH of HTN and glaucoma who presents from OSH with 
pelvic fracture. Patient sustained a mechanical fall early this 
morning after tripping and falling on edge of carpet in her 
bedroom. Immediately experienced severe right pelvis pain. 
Denies head strike or LOC. At OSH, patient had negative CT head. 
She was found to have pelvic fracture for which she was 
transferred to ___.

In the ED, initial vital signs were 97.2, 99, 114/66, 18, 99% 
RA. Labs were remarkable for WBC 15.5 and H/H 9.6/32.4. 
Otherwise, labs were unremarkable. Plain film pelvis showed 
non-displaced fractures of inferior pubic rami, left superior 
pubic ramus, and minimally displaced fracture of right sacrum. 
Orthopedics was consulted and recommended pain control, ___, 
weight-bearing as tolerated, and follow-up in Orthopedics Clinic 
in 1 week. Patient was admitted to Medicine for pain control.

On the floor, patient denies pain. She corroborated above 
history. Reports that morphine worked well for pain. She denies 
fevers, chills, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, and urinary symptoms.
 
Past Medical History:
- Hypertension
- Glaucoma
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION EXAM

General: Well-appearing elderly female in no distress
HEENT: NCAT, sclera anicteric, MMM, oropharynx clear
Neck: Supple, JVP not elevated, no LAD
CV: RRR, nl S1/S2, no MRG
Lungs: CTAB anteriorly
Abdomen: Soft, NTND, bowel sounds present
Ext: Warm, well-perfused, trace peripheral edema
Neuro: CN II-XII intact, moving lower extremities, strength 
testing limited by hip pain, sensation fully intact
Skin: No concerning lesions

DISCHARGE EXAM

Vitals: 97.9, 104-130/59-69, 97, 18, 97% on RA
General: Well-appearing elderly female in no distress
HEENT: NCAT, sclera anicteric, MMM, oropharynx clear
CV: RRR, nl S1/S2, no MRG
Lungs: CTAB, no wheezes/rales/rhonchi
Abdomen: Soft, NTND, bowel sounds present
Ext: Warm, well-perfused, trace peripheral edema
Neuro: MAE, answers questions appropriately
Skin: No concerning lesions

 
Pertinent Results:
ADMISSION LABS

___ 12:19PM BLOOD WBC-15.5* RBC-3.47* Hgb-9.6* Hct-32.4* 
MCV-93 MCH-27.7 MCHC-29.7* RDW-13.0 Plt ___
___ 12:19PM BLOOD Neuts-87.7* Lymphs-7.8* Monos-3.8 Eos-0.2 
Baso-0.4
___ 10:06AM BLOOD ___ PTT-32.8 ___
___ 10:06AM BLOOD Glucose-118* UreaN-21* Creat-0.9 Na-137 
K-5.0 Cl-101 HCO3-24 AnGap-17
___ 10:10AM BLOOD Lactate-2.0
___ 10:10AM BLOOD Hgb-11.7* calcHCT-35 O2 Sat-76

PERTINENT LABS

___ 12:50PM BLOOD ALT-10 AST-15 AlkPhos-78 TotBili-0.3
___ 12:50PM BLOOD Iron-22*
___ 12:50PM BLOOD calTIBC-224* Ferritn-295* TRF-172*

DISCHARGE LABS
___ 07:30AM BLOOD WBC-11.1* RBC-3.61* Hgb-10.3* Hct-33.2* 
MCV-92 MCH-28.5 MCHC-31.1 RDW-13.2 Plt ___
___ 06:41AM BLOOD Glucose-103* UreaN-15 Creat-0.7 Na-137 
K-4.2 Cl-104 HCO3-27 AnGap-10

IMAGING

Plain film pelvis (___): 1. Non-displaced fractures of the 
inferior pubic rami bilaterally. 2. Non-displaced fracture of 
the left superior pubic ramus. 3. Minimally displaced fracture 
of the right sacrum. 

CT abdomen/pelvis (___): 1. Bilateral inferior pubic rami 
fractures, left superior pubic ramus fracture, and right sacral 
ala fracture. 2. Small amount of blood in along the pelvic 
sidewalls, anterior to the bladder, and in the presacral space. 
3. Thickening cecum and adjacent lymphadenopathy, very 
concerning for malignancy.

 
Brief Hospital Course:
___ yo F with PMH of HTN and glaucoma who presents from OSH with 
pelvic fracture.

ACTIVE ISSUES

# Multiple pelvic fractures: Due to mechanical fall. Evaluated 
by Orthopedics and surgical intervention is not indicated. 
Admitted to Medicine for pain control. Patient's pain was 
controlled with standing Tylenol. She did not require oxycodone 
but did take Tramadol for further pain control though she 
complained that it made her sleepy. Physical therapy was 
consulted and recommended rehabilitation placement.

# Leukocytosis: Resolving. Most likely in the setting of pelvic 
fracture. Leukocytosis stabilized at ~11. 

# Anemia: Hct 32.4 on admission. Unclear baseline. Concern for 
acute blood loss anemia in the setting of her multiple pelvic 
fractures or iron-deficiency anemia from probable colon cancer. 
Iron studies showed mixed picture, both iron deficiency and 
anemia of inflammation. Hct stable on discharge without active 
signs of bleeding.

# Cecal thickening: Found on CT abdomen/pelvis. Very concerning 
for malignancy per final report. Discussed with patient. 
Recommended colonoscopy for further evaluation. Patient elected 
to discuss with PCP as outpatient. PCP's office also notified of 
CT scan findings and concern for malignancy.

CHRONIC ISSUES

# Hypertension: Continued home lisinopril and amiloride.

# Glaucoma: Continued home timolol and latanoprost.

TRANSITIONAL ISSUES
- Discharge vital signs: T 97.9 BP 104-130/59-69 P 97 R 16 O2Sat 
97% RA
- Started standing Tylenol and Tramadol as needed for pain
- Vital signs per routine
- CBC in ___ days for resolving leukocytosis, hematocrit. 
otherwise labs per routine
- Physical therapy
- Weight bearing as tolerated
- Needs follow-up with PCP on discharge from facility given 
concerns for cecal malignancy
- follow-up with Orthopedics
- Emergency contact: ___ (daughter) ___
- Code: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiloride HCl 5 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 

 
Discharge Medications:
1. Amiloride HCl 5 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
3. Lisinopril 20 mg PO DAILY 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
5. Senna 17.2 mg PO HS 
6. Docusate Sodium 100 mg PO BID 
7. Acetaminophen 1000 mg PO Q8H 
8. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary diagnosis: Fall with pelvic fracture

Secondary diagnoses:
- Anemia
- Hypertension
- Glaucoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you while you were a patient at 
___. You came to us with a 
pelvic fracture after your fall. Our orthopedic surgeons 
recommended physical therapy and rehab. We are sending you to a 
rehab facility so that you can build up your strength and heal 
your fracture.

While you were here, we got a CT scan of your abdomen and 
pelvis. This showed some bleeding from your pelvic fracture. It 
also showed some thickening in the first part of your colon that 
is concerning for a tumor. Please discuss colonoscopy with your 
PCP, who we informed of these results while you were here. 

We wish you all the best. 
 
Followup Instructions:
___